US07612114B2
6-{2-{[3-Fluoro-4-(2-piperidin-1-ylethoxy)benzyl]methylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[(3-fluoro-4-hydroxybenzoyl)methylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (20 mg) and 2-chloro-1-piperidin-1-ylethanone (13 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (2.2 mg) was obtained.

reactant | pivalic acid 6-{2-[(3-fluoro-4-hydroxybenzoyl)methylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 20 mg | FC=1C=C(C(=O)CNC2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C=CC1O | C30H32FNO5
reactant | 2-chloro-1-piperidin-1-ylethanone | 13 mg | ClCC(=O)N1CCCCC1 | C7H12ClNO
product | 6-{2-{[3-Fluoro-4-(2-piperidin-1-ylethoxy)benzyl]methylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 2.2 mg | FC=1C=C(CCNC2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)O)C=CC1OCCN1CCCCC1 | C32H39FN2O3
